US07718693B2
A solution of potassium fluoride (0.367 g, 9.55 mmol) in water (15 ml) was added to a solution of 2-chloro-4-fluoro-3-(trifluoromethyl)-5-(trimethylsilyl)benzoic acid (1 g, 3.18 mmol) in tetrahydrofuran (50 ml) and the mixture was stirred at 100° C. overnight. An additional aliquot of water (15 ml) and potassium fluoride (0.370 g, 9.62 mmol) was added and heating at 100° C. was continued for a further 4 hrs. The tetrahydrofuran was evaporated in vacuo and replaced with enough dimethylformamide to dissolve all solids. The mixture was heated overnight at 100° C. but starting material still remained so more potassium fluoride (0.367 g, 9.55 mmol) was added and heating at 100° C. continued for 7 days. At this stage almost all of the starting material had disappeared so the reaction was evaporated to dryness under vacuum and taken up in 2N aqueous hydrogen chloride (75 ml) and diethyl ether (50 ml). The aqueous layer was separated and extracted with more diethyl ether (2×50 ml) and then the combined organic fractions were dried over sodium sulphate and evaporated to give crude product as a white solid. This was purified by recrystallisation from toluene to give pure 2-chloro-4-fluoro-3-(trifluoromethyl)benzoic acid (0.566 g) as a white solid.

reactant | potassium fluoride | 9.55 mmol, 0.367 g | [F-].[K+]
reactant | 2-chloro-4-fluoro-3-(trifluoromethyl)-5-(trimethylsilyl)benzoic acid | 3.18 mmol, 1 g | ClC1=C(C(=O)O)C=C(C(=C1C(F)(F)F)F)[Si](C)(C)C | C11H11ClF4O2Si
reactant | potassium fluoride | 9.62 mmol, 0.370 g | [F-].[K+]
reactant | potassium fluoride | 9.55 mmol, 0.367 g | [F-].[K+]
solvent | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
product | 2-chloro-4-fluoro-3-(trifluoromethyl)benzoic acid | 0.566 g | ClC1=C(C(=O)O)C=CC(=C1C(F)(F)F)F | C8H3ClF4O2
